US09169249B2
Preparation of 7-Azido-3,3-dimethylindolizin-5-(1H)-one
A solution of 2,3,8,8a-tetrahydro-3,3-dimethylindolizin-5(1H)-one (0.3 g, 1.8 mmol) in 10 ml of toluene was taken a 25 ml RB flask. To the above flask azido-trimethylsilane (2.42 ml, 18.2 mmol), AcOH (1.2 ml, 20 mmol) and DBU (0.27 ml, 1.8 mmol) were added. The reaction mixture was stirred at room temperature for overnight. Volatiles were removed under vacuum and the crude reaction mixture was purified by column chromatography. The product was obtained as colorless oil in 85% yield (0.32 g).

reactant | 2,3,8,8a-tetrahydro-3,3-dimethylindolizin-5(1H)-one | 1.8 mmol, 0.3 g | CC1(CCC2CC=CC(N12)=O)C | C10H15NO
reactant | azido-trimethylsilane | 18.2 mmol, 2.42 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | AcOH | 20 mmol, 1.2 ml | CC(=O)O | C2H4O2
reactant | DBU | 1.8 mmol, 0.27 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Azido-3,3-dimethylindolizin-5-(1H)-one | 85% yield | N(=[N+]=[N-])C1=CC(N2C(CCC2=C1)(C)C)=O | C10H12N4O
